*
D1 N004 N005 1N4148
D2 0 N002 1N4148
D3 0 N004 1N4148
D4 N002 N005 1N4148
C1 0 N005 1000µ
R1 0 N005 10
V1 COM 0 5
V2 N004 N002 SINE(0 6 50)
M1 N001 N002 0 0 2N7002
R2 COM N001 20k
M2 N003 N001 0 0 2N7002
R3 COM N003 20k
.model D D
.lib /Users/ivan/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/ivan/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 0 1
.backanno
.end
